US07399759B2
tert-Butyl 3-[6-(7-methoxy-4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoate
2-Mercapto-4-methoxybenzoic acid (1.26 g, 6.8 mmol) and tert-butyl 3-(6-cyano-2-pyridyl)propanoate (1.21 g, 5.2 mmol) were dissolved in pyridine (10 ml), and the reaction mixture was refluxed for 24 hrs. The reaction mixture was concentrated under reduced pressure, subjected to a silica gel column chromatography, eluted with hexane-ethyl acetate (1:1, v/v) and recrystallized from ethyl acetate-hexane to give the titled compound (0.96 g, 46%)

reactant | 2-Mercapto-4-methoxybenzoic acid | 6.8 mmol, 1.26 g | SC1=C(C(=O)O)C=CC(=C1)OC | C8H8O3S
reactant | tert-butyl 3-(6-cyano-2-pyridyl)propanoate | 5.2 mmol, 1.21 g | C(#N)C1=CC=CC(=N1)CCC(=O)OC(C)(C)C | C13H16N2O2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 3-[6-(7-methoxy-4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoate | 0.96 g, 46% | COC1=CC2=C(C(N=C(S2)C2=CC=CC(=N2)CCC(=O)OC(C)(C)C)=O)C=C1 | C21H22N2O4S
